US06900231B2
9. 2-[3-(2,2-Difluoro-2-phenylacetylamino)-2-fluoro-6-nitrophenyl]ethyl Acetate
To a solution of DIEA (1.49 mL, 8.55 mmol) and 2-(3-amino-2-fluoro-6-nitrophenyl)ethyl acetate (690 mg, 2.85 mmol), as prepared in the preceding step, in DCM (6 mL) was added a solution of 2,2-difluoro-2-phenylacetyl chloride (0.99 g, 5.20 mmol), as prepared according to the procedure of step 3 of Example 1, in DCM (3 mL). After stirring for 24 hours, the mixture was concentrated, and partitioned between DCM and H2O. The organic layer was separated, and the aqueous layer extracted with DCM. The organic layers were combined, washed with H2O and brine, dried over Na2SO4, concentrated, and flash chromatographed on silica gel eluting with EtOAc/DCM (0, 2.5, and 5%) to give the title compound (1.04 g, 92% yield) as an orange oil. 1H-NMR (400 MHz, CDCl3) δ 8.49-8.43 (m, 2H), 7.87 (d, J=9.2 Hz, 1H), 6.68 (d, J=7.1 Hz, 2H), 7.55-7.49 (m, 3H), 4.35 (t, J=6.4 Hz, 2H), 3.37 (dt, J=6.3, 2.3 Hz, 2H), 2.01 (s, 3H).

reactant | DIEA | 8.55 mmol, 1.49 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3-amino-2-fluoro-6-nitrophenyl)ethyl acetate | 2.85 mmol, 690 mg | C(C)(=O)OCCC1=C(C(=CC=C1[N+](=O)[O-])N)F | C10H11FN2O4
reactant | 2,2-difluoro-2-phenylacetyl chloride | 5.20 mmol, 0.99 g | FC(C(=O)Cl)(C1=CC=CC=C1)F | C8H5ClF2O
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-(2,2-Difluoro-2-phenylacetylamino)-2-fluoro-6-nitrophenyl]ethyl Acetate | 1.04 g, 92% yield | C(C)(=O)OCCC1=C(C(=CC=C1[N+](=O)[O-])NC(C(C1=CC=CC=C1)(F)F)=O)F | C18H15F3N2O5
